US05679683
A suspension of 4-oxo-3H-oxazolo[5,4-g]quinazoline (0.98 g, 5.24 mmol) in POCl3 (30 mL) is heated under reflux with vigorous stirring for 18 h, and then concentrated to dryness. The residue is partitioned between EtOAc and saturated aqueous NaHCO3 and the organic portion is worked up to give 4-chlorooxazolo[5,4-g]quinazoline (0.24g, 22%) as a yellow solid which is used directly.

reactant | 4-oxo-3H-oxazolo[5,4-g]quinazoline | 5.24 mmol, 0.98 g | O=C1C2C(=CC=3C=NC=NC13)OCN2 | C9H7N3O2
reactant | POCl3 | 30 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chlorooxazolo[5,4-g]quinazoline | 0.24g, 22% | ClC1=C2C(=CC=3C=NC=NC13)OC=N2 | C9H4ClN3O
